US07790756B2
To a stirring suspension of 6-aminobenzothiazole (0.500 g, 3.33 mmol) in conc. HCl (5 ml) at 0-5° C. was added a solution of NaNO2 (0.276 g, 3.99 mmol) in H2O (5 ml). The mixture was stirred at 0-5° C. for 75 min until a clear yellow solution was obtained. To this was then added a solution of SnCl2.2H2O (2.76 g, 13.3 mmol) in conc. HCl (5 ml). After completing the addition, the suspension was stirred at RT for 2 h. 4-Methyl-3-oxopentanenitrile (0.444 g, 3.99 mmol) and EtOH (50 ml) were added and the reaction was stirred with heating at 75° C. After 18 h, the completed reaction was cooled to RT and concentrated to an aqueous residue. This was chilled thoroughly in ice and made strongly basic (pH 12-13) by the addition of 6M NaOH. While still cold the mixture was extracted with EtOAc (2×). The combined organics were washed with H2O (2×), brine (1×), dried (MgSO4), filtered and evaporated to afford crude 1-(benzo[d]thiazol-6-yl)-3-isopropyl-1H-pyrazol-5-amine (0.8 g, 93% yield) as an oil which was used as is in the next reaction. 1H NMR (400 MHz, DMSO-d6) δ 9.36 (s, 1H), 8.30 (d, J=2.4 Hz, 1H); 8.10 (d, J=8.8 Hz, 1H), 7.74 (dd, J=2.4 and 8.8 Hz, 1H), 5.36 (s, 1H), 5.33 (brs, 2H), 2.76 (septet, J=6.8 Hz, 1H), 1.17 (d, J=6.8 Hz, 6H); MS (ESI) m/z: 259.0 (M+H+).

reactant | 6-aminobenzothiazole | 3.33 mmol, 0.500 g | NC1=CC2=C(N=CS2)C=C1 | C7H6N2S
reactant | NaNO2 | 3.99 mmol, 0.276 g | N(=O)[O-].[Na+]
reactant | SnCl2.2H2O | 13.3 mmol, 2.76 g | O.O.Cl[Sn]Cl
reactant | 4-Methyl-3-oxopentanenitrile | 3.99 mmol, 0.444 g | CC(C(CC#N)=O)C | C6H9NO
solvent | HCl | 5 ml | Cl | ClH
solvent | H2O | 5 ml | O | H2O
solvent | HCl | 5 ml | Cl | ClH
solvent | EtOH | 50 ml | CCO | C2H6O
product | 1-(benzo[d]thiazol-6-yl)-3-isopropyl-1H-pyrazol-5-amine | 0.8 g, 93% yield | S1C=NC2=C1C=C(C=C2)N2N=C(C=C2N)C(C)C | C13H14N4S
